US06835732B2
2-Chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-6-methyl-isonicotinamide
To a stirred suspension of 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine (13.3 g, 50.1 mmol) in THF (700 ml) was added N-ethyldiisopropylamine (21.3 ml, 125 mmol). The mixture was then cooled to 5° C. and a solution of 2-chloro-6-methyl-isonicotinoyl chloride (10.5 g, 55.1 mmol) in dichloromethane (350 ml) was added dropwise over 2 hours. The reaction mixture was then stirred overnight at 20° C. To this mixture was added methanol (40 ml) and stirring continued for ten minutes. The mixture was then concentrated in vacuo and the residue partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic phases were then dried over Na2SO4 and the solvent evaporated. The crude product was then chromatographed over SiO2 (Merck 230-400 mesh) eluting with CH2Cl2/MeOH (98:2), the product fractions were pooled and the solvent evaporated, to afford the title compound as a brown solid (16.0 g, 76% yield), MS: m/e=421 (M{37Cl}+H+), 419 (M{35Cl}+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine | 50.1 mmol, 13.3 g | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | N-ethyldiisopropylamine | 125 mmol, 21.3 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-6-methyl-isonicotinoyl chloride | 55.1 mmol, 10.5 g | ClC=1C=C(C(=O)Cl)C=C(N1)C | C7H5Cl2NO
reactant | methanol | 40 ml | CO | CH4O
solvent | THF | 700 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 2-Chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-6-methyl-isonicotinamide | 16.0 g, 76% yield | ClC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C(N1)C | C19H19ClN4O3S
